US05914328
57b. 3-((1-allyl-2-(S)-pyrrolidinyl)methoxy)-5-bromopyridine
A 230 mg sample of 1-allyl-2-(S)-pyrrolidinemethanol, from step 57a above, was dissolved in 8 mL of DMF and stirred under N2, then 104 mg of NaH (80% dispersion in mineral oil) was added The reaction mixture was stirred fifteen minutes, and 489.8 mg of 3,5dibromomethylpyridine was added. The reaction mixture was stirred at 60° C. for 4 hours. The volatiles were removed under vacuum, and the residue was purified by chromatography on silica gel to give 230 mg of the title product. MS (DCI/NH3) m/e: 297/299 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.28 (d, J=1.8 Hz, 1H), 8.24 (d, J+2.6 Hz, 1H), 7.48 (dd, J=1.8, 2.6 Hz, 1H), 6.02-5.88 (m, 1H), 5.30-5.12 (m, 2H), 4.15-3.90 (m, 1H), 3.96-3.82 (m, 1H), 3.60-3.43 (m, 1H), 3.23-3.05 (m, 2H), 3.03-2.90 (m, 1H), 2.45-2.32 (m, 1H), 2.10-1.95 (m, 1H), 1.90-1.70 (m, 3H).

reactant | 1-allyl-2-(S)-pyrrolidinemethanol | C(C=C)N1[C@@H](CCC1)CO | C8H15NO
reactant | NaH | 104 mg | [H-].[Na+]
reactant | 3,5dibromomethylpyridine | 489.8 mg | BrCC=1C=NC=C(C1)CBr | C7H7Br2N
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-((1-allyl-2-(S)-pyrrolidinyl)methoxy)-5-bromopyridine | 230 mg | C(C=C)N1[C@@H](CCC1)COC=1C=NC=C(C1)Br | C13H17BrN2O
